US08048884B2
Preparation 6: 3′-(4-Methoxymethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl
Dissolve 3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (3.72 g, 9.70 mmol) in dichloromethane (25 mL). Add cold trifluoroacetic acid (30 mL, 44.2 g, 388 mmol, 40 eq.). Stir for 1 hr. Partition the crude reaction mixture between aq. 5N NaOH and dichloromethane. Separate the layers (pH aqueous layer=14). Extract the aqueous layer with dichloromethane (2×50 mL). Combine organic layers, dry over anhydrous Na2SO4, filter and concentrate to obtain the title preparation (2.76 g, 100% yield). LC MS (ES): m/z=285.0 [M+H].

reactant | 3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 9.70 mmol, 3.72 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)COC | C21H28N4O3
reactant | trifluoroacetic acid | 388 mmol, 30 mL, 44.2 g, 40 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3′-(4-Methoxymethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 100% yield | COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C16H20N4O
